US08372840B2
iii) 1-Methyl-1H-pyrazole-3-sulfonic acid (4-chloro-benzyl)-(3-hydroxy-phenyl)-amide
Pyridine (520 μl, 6.4 mmol) was added to a stirred solution of 3-(4-chloro-benzylamino)-phenol (500 mg, 2.2 mmol) and 1-methylpyrazole-3-sulfonyl chloride (181 mg, 4.5 mmol) in anhydrous dichloromethane (22 ml). The reaction was stirred under nitrogen at 50° C. for 48 hours and then quenched with water (50 ml). The reaction was extracted with dichloromethane (3×25 ml), and the organics combined, washed with water (50 ml) and brine (50 ml), dried over anhydrous sodium sulphate and then concentrated in vacuo. The crude product was dissolved in a solution of tetrahydrofuran/methanol/water (1:1:1) (25 ml), treated with lithium hydroxide (271 mg, 6.45 mmol) and the mixture was stirred at 85° C. for 2 hours. The reaction was cooled, quenched with 2M hydrochloric acid (aq) until slightly acidic and extracted with ethyl acetate (2×50 ml). The organic extracts were combined, washed with water (100 ml), dried over anhydrous sodium sulphate and concentrated in vacuo to obtain a white solid (645 mg, 27% yield). HPLC retention time 5.59 min Mass spectrum (ES+) m/z 378 (M+H).

reactant | Pyridine | 6.4 mmol, 520 μl | N1=CC=CC=C1 | C5H5N
reactant | 3-(4-chloro-benzylamino)-phenol | 2.2 mmol, 500 mg | ClC1=CC=C(CNC=2C=C(C=CC2)O)C=C1 | C13H12ClNO
reactant | 1-methylpyrazole-3-sulfonyl chloride | 4.5 mmol, 181 mg | CN1N=C(C=C1)S(=O)(=O)Cl | C4H5ClN2O2S
reactant | lithium hydroxide | 6.45 mmol, 271 mg | [OH-].[Li+]
solvent | dichloromethane | 22 ml | ClCCl | CH2Cl2
product | 1-Methyl-1H-pyrazole-3-sulfonic acid (4-chloro-benzyl)-(3-hydroxy-phenyl)-amide | 645 mg, 27% yield | ClC1=CC=C(CN(S(=O)(=O)C2=NN(C=C2)C)C2=CC(=CC=C2)O)C=C1 | C17H16ClN3O3S
